US08802659B2
6-(4-tert-Butyl-cyclohexyloxy)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
A mixture of 6-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (1.1 g, 4.4 mmol), cesium carbonate (4.3 g, 13 mmol), and methanesulfonic acid 4-tert-butyl-cyclohexyl ester (2.2 g, 8.8 mmol). in t-BuOH (12 mL) and 2-butanone (6.0 mL) was heated in a sealed vial at 100° C. overnight. The mixture was partitioned between water and ether. The organic phase was washed with water, dried over MgSO4, filtered and concentrated. The residue was purified via a silica gel column eluted with EtOAc in hexanes from 0 to 30% to give white precipitate (1.0 g, yield: 58%). 1H NMR (400 MHz, CDCl3) δ 6.99 (d, 1H), 6.74 (dd, 1H), 6.67 (d, 1H), 4.49 (s, 2H), 4.07 (m, 1H), 3.61 (s, 2H), 2.78 (m, 2H), 2.18 (d, 2H), 1.85 (d, 2H), 1.48 (s, 9H), 1.37 (m, 2H), 1.18-1.00 (m, 3H), 0.87 (s, 9H).

reactant | 6-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 4.4 mmol, 1.1 g | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)O | C14H19NO3
reactant | cesium carbonate | 13 mmol, 4.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methanesulfonic acid 4-tert-butyl-cyclohexyl ester | 8.8 mmol, 2.2 g | C(C)(C)(C)C1CCC(CC1)OS(=O)(=O)C | C11H22O3S
reactant | 2-butanone | 6.0 mL | CC(CC)=O | C4H8O
solvent | t-BuOH | 12 mL | CC(C)(C)O | C4H10O
product | 6-(4-tert-Butyl-cyclohexyloxy)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 1.0 g, yield: 58% | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)OC1CCC(CC1)C(C)(C)C | C24H37NO3
